US06787536B2
2-(R)-{4-[5-(3,4-Dichlorophenyl)pyrimidin-2yl]piperazine-1-sulfonylmethyl}-N-hydroxy-3-methylbutyramide
Prepared according to the method for the preparation of 2-(R)-{4-[5-(4-fluorophenyl)pyrimidin-2-yl]piperazine-1-sulfonylmethyl}-N-hydroxy-3-methylbutyramide, from 2-(R)-{4-[5-(3,4-dichlorophenyl)pyrimidin-2-yl]piperazine-1-sulfonylmethyl}-3-methylbutyric acid (0.270 g), to yield the title compound as a white solid (0.080 g, 29%).

reactant | 2-(R)-{4-[5-(4-fluorophenyl)pyrimidin-2-yl]piperazine-1-sulfonylmethyl}-N-hydroxy-3-methylbutyramide | FC1=CC=C(C=C1)C=1C=NC(=NC1)N1CCN(CC1)S(=O)(=O)C[C@@H](C(=O)NO)C(C)C | C20H26FN5O4S
reactant | 2-(R)-{4-[5-(3,4-dichlorophenyl)pyrimidin-2-yl]piperazine-1-sulfonylmethyl}-3-methylbutyric acid | 0.270 g | ClC=1C=C(C=CC1Cl)C=1C=NC(=NC1)N1CCN(CC1)S(=O)(=O)C[C@@H](C(=O)O)C(C)C | C20H24Cl2N4O4S
product | 2-(R)-{4-[5-(3,4-Dichlorophenyl)pyrimidin-2yl]piperazine-1-sulfonylmethyl}-N-hydroxy-3-methylbutyramide | 0.080 g, 29% | ClC=1C=C(C=CC1Cl)C=1C=NC(=NC1)N1CCN(CC1)S(=O)(=O)C[C@@H](C(=O)NO)C(C)C | C20H25Cl2N5O4S
